US05556860
Synthesis of 3-[1-(3-aminobenzyl)piperidin-4-yl]-4-phenyl-3,4-dihydro-2(1H)-quinazolinone
To a solution of 540 mg (1.22 mmol) of 3-[1-(3-nitrobenzyl)piperidin-4-yl]-4-phenyl-3,4-dihydro-2(1H)quinazolinone in 50 mL of ethanol was added 826 mg (3.66 mmol) of SnCl2.2H2O, and the mixture was stirred for 12 hours at 60° C. After being cooled, the reaction mixture was filtered through cerite, and the filtrate was concentrated in vacuo. The residue was purified by means of column chromatography (silica gel, 1:19 methanol:chloroform) to give 210 mg (0.51 mmol) of the title compound.

reactant | 3-[1-(3-nitrobenzyl)piperidin-4-yl]-4-phenyl-3,4-dihydro-2(1H)quinazolinone | 1.22 mmol, 540 mg | [N+](=O)([O-])C=1C=C(CN2CCC(CC2)N2C(NC3=CC=CC=C3C2C2=CC=CC=C2)=O)C=CC1 | C26H26N4O3
reactant | SnCl2.2H2O | 3.66 mmol, 826 mg | O.O.Cl[Sn]Cl
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 3-[1-(3-aminobenzyl)piperidin-4-yl]-4-phenyl-3,4-dihydro-2(1H)-quinazolinone | 0.51 mmol, 210 mg | NC=1C=C(CN2CCC(CC2)N2C(NC3=CC=CC=C3C2C2=CC=CC=C2)=O)C=CC1 | C26H28N4O
